US09145409B2
Intermediate 53. [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl]2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylate (I57)
To a stirred suspension of 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylic acid (350 mg, 0.825 mmol) in DMF (12.3 mL) was added (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethanol (284 mg, 0.825 mmol), DMAP (50.4 mg, 0.412 mmol) and EDC hydrochloride (316.2 mg, 1.65 mmol). The reaction was stirred at room temperature for 23 h. The majority of the DMF was removed in vacuo and the residue was partitioned between ethyl acetate (30 mL) and saturated aqueous NaHCO3 solution (30 mL). The aqueous phase was extracted twice with ethyl acetate (20 mL) and the combined organic phases were washed with brine, dried on MgSO4, filtered then concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-50% EtOAc in dichloromethane, to give the title compound (225.6 mg, 36%) as a colourless solid.

reactant | 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylic acid | 0.825 mmol, 350 mg | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC=2OC=C(N2)C(=O)O)C=CC1)C1=CC=CC=C1 | C23H24N2O6
reactant | (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethanol | 0.825 mmol, 284 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
reactant | EDC hydrochloride | 1.65 mmol, 316.2 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 12.3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.412 mmol, 50.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl]2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylate | 225.6 mg, 36% | ClC=1C=[N+](C=C(C1C[C@@H](C1=CC(=C(C=C1)OC)OC)OC(=O)C=1N=C(OC1)COC1=CC(=CC=C1)[C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C)Cl)[O-] | C38H37Cl2N3O9
